US06949542B2
7-Ethoxy-4-[3-(6-ethyl-pyridin-3-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (5-ethoxy-2-{3-[3-(6-ethyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example M172) (214 mg, 0.374 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as an off-white solid (167 mg, 98%).

reactant | (5-ethoxy-2-{3-[3-(6-ethyl-pyridin-3-yl)-phenyl]-3-oxo-propionylamino}-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.374 mmol, 214 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)OCC)C(F)(F)F)NC(CC(=O)C1=CC(=CC=C1)C=1C=NC(=CC1)CC)=O)=O | C30H32F3N3O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-Ethoxy-4-[3-(6-ethyl-pyridin-3-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | C(C)OC1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C=2C=NC(=CC2)CC)=O)C=C1C(F)(F)F | C25H22F3N3O2
